US09416135B2
To a three-necked bottle containing THF (10 mL) was bubbled with NH3 (gas) at −78° C. for 5 mins. Na (300 mg, 13.0 mmol) was added to the mixture slowly at −78° C. After stirring for 30 min, (R)-tert-butyl 4-benzyl-2-isopropyl-3-oxopiperazine-1-carboxylate (700 mg, 2.11 mmol) was added dropwise at −78° C. The mixture was stirred at −78° C. for 30 min. The mixture was quenched with sat. aq NH4Cl (10 mL) and extracted with EtOAc (3×10 mL). The combined organic layers were washed with brine (10 mL), dried over anhydrous Na2SO4, filtered, concentrated and purified by preparative TLC with PE/EtOAc 1/1 to afford tert-butyl 2-isopropyl-3-oxopiperazine-1-carboxylate (300 mg, 59% yield) as a white solid. The product was found to be a racemic mixture. The cause of racemization was not investigated. LC-MS m/z 187.1 [M−56+H]+, 265.1 [M+Na]+. 1H NMR (CDCl3 400 MHz): δ 6.29 (s, 1H), 4.55-3.99 (m, 2H), 3.51-3.36 (m, 1H), 3.32-3.12 (m, 2H), 2.34-2.29 (m, 1H), 1.46 (s, 9H), 1.09 (d, J=6.8 Hz, 3H), 0.99 (d, J=7.2 Hz, 3H).

reactant | (R)-tert-butyl 4-benzyl-2-isopropyl-3-oxopiperazine-1-carboxylate | 2.11 mmol, 700 mg | C(C1=CC=CC=C1)N1C([C@H](N(CC1)C(=O)OC(C)(C)C)C(C)C)=O | C19H28N2O3
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | tert-butyl 2-isopropyl-3-oxopiperazine-1-carboxylate | 300 mg, 59% yield | C(C)(C)C1N(CCNC1=O)C(=O)OC(C)(C)C | C12H22N2O3
